US07728022B2
To a stirred solution of (2E)-3-(2,4-Dichlorophenyl)acrylic acid (10 g, 46 mmol) in ethanol (60 ml) was added conc. H2SO4 (2.5 ml). The mixture was heated to reflux and for 48 H, then allowed to cool, concentrated in vacuo, dissolved in ethyl acetate, washed three times with 4N NaOH, dried over sodium sulfate and concentrated in vacuo to afford ethyl (2E)-3-(2,4-dichlorophenyl)acrylate (10.7 g) as pale brown crystals. 1H NMR δ (ppm)(CDCl3): 8.00 (1 H, d, J=16.1 Hz), 7.55 (1 H, d, J=8.5 Hz), 7.44 (1 H, d, J=1.9 Hz), 7.26 (1 H, dd, J=2.0, 8.4 Hz), 6.41 (1 H, d, J=16.1 Hz), 4.28 (2 H, q, J=7.1 Hz), 1.34 (3 H, t, J=7.1 Hz).

reactant | (2E)-3-(2,4-Dichlorophenyl)acrylic acid | 46 mmol, 10 g | ClC1=C(C=CC(=C1)Cl)/C=C/C(=O)O | C9H6Cl2O2
reactant | H2SO4 | 2.5 ml | OS(=O)(=O)O | H2O4S
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl (2E)-3-(2,4-dichlorophenyl)acrylate | 10.7 g | ClC1=C(C=CC(=C1)Cl)/C=C/C(=O)OCC | C11H10Cl2O2
